US04716146
For this reaction, 50 gms. (0.33 mole) of 4-methylphenoxyethanol ethanol and 2.43 gms. (0.0066 mole, 2 mole %) of tetrabutylammonium iodide (TBAI) are charged with 100 mls diethylether (DEE) to a 500 ml. flask fitted with mechanical stirrer, condenser, addition funnel and N2 inlet. Sixty-six gms. (1.65 moles) of sodium hydroxide (as a 50% aqueous solution) are then added to the flask over 15 minutes and the mixture stirred by 1/2 hour. Dimethyl sulfate (108 gms; 81 mls; 0.86 mole) are added to the viscous mixture over a period of one hour and the reaction mixture becomes less thick as addition nears completion. When the addition is complete, the mixture is stirred for two hours. The reaction mixture is combined with 150 mls. of distilled water. The organic layer is washed three times with water and, after the addition of more diethyl ether, dried over MgSO4. Filtration and removal of solvent affords 50 gms. crude product (98.3% 4-methylphenyl-2-methoxyethyl ether). Distillation of the crude material yields pure 4-methylphenyl-2-methoxyethyl ether (B.P. 65° C. at 0.25 mm Hg). The infrared and proton nuclear magnetic resonance spectra are in agreement with the data presented in Example 1 and confirm the structure of the product.

reactant | 4-methylphenoxyethanol ethanol | 0.33 mole | C(C)O.CC1=CC=C(OC(C)O)C=C1
reactant | diethylether | 100 mls | C(C)OCC | C4H10O
reactant | sodium hydroxide | 1.65 moles | [OH-].[Na+]
reactant | Dimethyl sulfate | 0.86 mole, 81 mls, 108 gms | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | tetrabutylammonium iodide | 0.0066 mole | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-methylphenyl-2-methoxyethyl ether | CC1=CC=C(C=C1)C(COCC(C1=CC=C(C=C1)C)OC)OC | C20H26O3
